US05519021
To a 200 mL round bottomed flask with a stirring bar, argon inlet and a reflux condenser was added (+/-) 2-(2-Amino-5-chlorophenyl)-1,1,1-trifluoro-5-hexen-2-ol (4.80 g, 17.16 mmol), 1,1'-carbonyldiimidazole (13.91 g, 85.81 mmol) and dry THF (75 mL). This mixture was heated at 60° C. for 18 h. The cooled reaction mixture was diluted with EtOAc and washed with H2O (3×200 mL) and brine (250 mL). Drying (MgSO4), filtration, removal of the solvent in vacuo, followed by recrystallization from boiling EtOAc-hexane gave 3.22 g of (+/-) 4-(1,1,1,-trifluoromethyl)-4(1-buten-4-yl)-6-chloro-1,4-dihydro-2H-3,1-benzoxazin-2-one as a white crystalline solid, mp: 165°-166° C. 1H NMR (CDCl3): δ1.99 (m, 1H), 2.09-2.40 (m, 3H), 5.00 (d, 1H, J=1.4 Hz), 5.03 (dd, 1H, J=1.4, 7.9), 5.78 (m, 1H), 6.85 (d, 1H, J=8.6 Hz), 7.21 (br s, 1H), 7.35 (dd, 1H, J=2.2, 8.6 Hz), 9.63 (br s, 1H).

reactant | (+/-) 2-(2-Amino-5-chlorophenyl)-1,1,1-trifluoro-5-hexen-2-ol | 17.16 mmol, 4.80 g | NC1=C(C=C(C=C1)Cl)C(C(F)(F)F)(CCC=C)O | C12H13ClF3NO
reactant | 1,1'-carbonyldiimidazole | 85.81 mmol, 13.91 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | THF | 75 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (+/-) 4-(1,1,1,-trifluoromethyl)-4(1-buten-4-yl)-6-chloro-1,4-dihydro-2H-3,1-benzoxazin-2-one | 3.22 g | FC(F)(F)C1(OC(NC2=C1C=C(C=C2)Cl)=O)CCC=C | C13H11ClF3NO2
